US07288547B2
298 mg (1.0 mmol) of 4-(5-bromo-2-chloro-pyrimidin-4-ylsulfanyl)-butan-1-ol is dissolved in 2 ml of acetonitrile and added to a suspension of 172 mg (1.0 mmol) of 5-amino-pyridine-2-sulfonic acid amide (representation according to W. T. Caldwell, E. C. Kornfeld J Am. Chem. Soc. 1942, 64, 1695-1698) in 1 ml of acetonitrile, 0.25 ml of a 4 molar solution of hydrochloric acid in 1,4-dioxane as well as 0.25 ml of water. The reaction mixture is stirred under reflux for 24 hours. It is mixed with 1 ml of ethanol and stirred for another 24 hours under reflux. After cooling, the precipitate that is formed is filtered off, and the filtrate is concentrated by evaporation. The residue is purified by chromatography (Flashmaster II, DCM/MeOH 9:1). The crude product that is obtained is then purified by preoperative thin-layer chromatography. 43 mg (0.10 mmol, 10% of theory) of the product 5-[5-bromo-4-(4-hydroxy-butylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide is obtained

reactant | 4-(5-bromo-2-chloro-pyrimidin-4-ylsulfanyl)-butan-1-ol | 1.0 mmol, 298 mg | BrC=1C(=NC(=NC1)Cl)SCCCCO | C8H10BrClN2OS
reactant | 5-amino-pyridine-2-sulfonic acid amide | 1.0 mmol, 172 mg | NC=1C=CC(=NC1)S(=O)(=O)N | C5H7N3O2S
reactant | hydrochloric acid | Cl | ClH
reactant | water | 0.25 ml | O | H2O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 5-[5-bromo-4-(4-hydroxy-butylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)SCCCCO | C13H16BrN5O3S2
